US04945098
3-Hexadecylaminothiocarbonyloxy-2-methylenepropan-1-ol
Hexadecyl isothiocyanate (9.65 g) and 2-methylenepropane-1,3-diol) (3.0 g) were heated with pyridine (17 ml) and 4-dimethylaminopyridine (0.8 g) to 104° C. for 6.5 hours. The mixture was evaporated to dryness in vacuo and chromatographed on a Waters PrepLC®/System 500A using a PrepPAK®-500/SILICA cartridge with ether/chloroform/hexane 2:2:9 as eluent.

reactant | Hexadecyl isothiocyanate | 9.65 g | C(CCCCCCCCCCCCCCC)N=C=S | C17H33NS
reactant | 2-methylenepropane-1,3-diol | C=C(CO)CO | C4H8O2
catalyst | 4-dimethylaminopyridine | 0.8 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 17 ml | N1=CC=CC=C1 | C5H5N
product | 3-Hexadecylaminothiocarbonyloxy-2-methylenepropan-1-ol | C(CCCCCCCCCCCCCCC)NC(=S)OCC(CO)=C | C21H41NO2S
